US08809363B2
To a stirred solution of (2-allyloxy-4-methyl-phenyl)-(2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-methanone (882 mg, 2.69 mmols) in ethanol (30 mL) was added ethyl 2,4-dioxopentanoate (426 mg, 378 μL, 1 eq) followed by acetyl chloride (846 mg, 766 μL, 4 eq), and the reaction was heated to 50° C. for 1 hour. The reaction was then concentrated in vacuo to give [4-(2-allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-oxo-acetic acid ethyl ester hydrochloride as a pale yellow oil 1 g (86% yield). LCMS (2 min acidic) 1.70 min 54-100% pure by UV, ES+/AP+ 450. HNMR (CDCl3)>90% pure 6.95 (d, J=7.0 Hz, 1H) 6.87 (d, J=7.0 Hz, 1H) 6.76 (s, 1H) 5.82 (m, 1H) 5.09-5.20 (m, 2H) 4.39-4.51 (m, 2H) 3.84-3.94 (m, 2H) 2.95 (s, 3H) 2.87-2.93 (m, 2H) 2.43 (s, 3H) 1.92-2.08 (m, 2H) 1.78-1.89 (m, 2H) 1.55-1.70 (m, 2H) 1.12 (t, J=7.1 Hz, 3H).

reactant | (2-allyloxy-4-methyl-phenyl)-(2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-methanone | 2.69 mmols, 882 mg | C(C=C)OC1=C(C=CC(=C1)C)C(=O)C=1C2=C(SC1N)CCCC2 | C19H21NO2S
reactant | ethyl 2,4-dioxopentanoate | 378 μL, 426 mg, 1 eq | O=C(C(=O)OCC)CC(C)=O | C7H10O4
reactant | acetyl chloride | 766 μL, 846 mg, 4 eq | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | [4-(2-allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-oxo-acetic acid ethyl ester hydrochloride | 1 g, 86% yield | Cl.C(C)OC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)OCC=C)=O | InChI=1S/C26H27NO4S.ClH/c1-5-13-31-19-14-15(3)11-12-17(19)22-21(24(28)26(29)30-6-2)16(4)27-25-23(22)18-9-7-8-10-20(18)32-25;/h5,11-12,14H,1,6-10,13H2,2-4H3;1H
